US05866576
This example illustrates a synthesis of N-(9,8-Oxidononyl)phthalimide (inventive compound no. 1105). 1-bromo-8-nonene (8.2 g, 40 mmol) was added to a suspension of potassium phthalimide (7.4 g, 40 mmol) in 50 mL of dimethyl sulfoxide and stirred overnight. After 12 hours of stirring at room temperature, the reaction product was poured into a separatory funnel containing 300 mL of water and extracted with dichloromethane (5×200 mL). Organic extracts were combined, washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel (using an eluant of 10% acetone/hexane) to yield 7.6 g (70.4% yield) of N-(8-Nonenyl)phthalimide (inventive compound no. 1101).

reactant | 1-bromo-8-nonene | 40 mmol, 8.2 g | BrCCCCCCCC=C | C9H17Br
reactant | potassium phthalimide | 40 mmol, 7.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 300 mL | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
product | N-(8-Nonenyl)phthalimide | 7.6 g, 70.4% yield | C(CCCCCCC=C)N1C(C=2C(C1=O)=CC=CC2)=O | C17H21NO2
